US08183289B2
Tert-butyl 2-(4-hydroxyphenyl)acetate (200 mg, 0.960 mmol) was diluted with DMSO (4 mL) followed by the addition of K2CO3 (133 mg, 0.960 mmol) and N-(4-chlorophenethyl)-4-fluorobenzamide (267 mg, 0.960 mmol). The reaction was stirred at 85° C. overnight, and then stirred at 138° C. for 12 hours. The reaction was cooled to ambient temperature, diluted with DCM and 10% aq. sodium carbonate. The layers were separated and the organic layer was dried over MgSO4, filtered and concentrated. The crude material was purified by silica gel chromatography, eluting with hexanes:ethyl acetate (4:1) to yield tert-butyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)phenyl)acetate (20 mg, 4.47% yield) as an off white solid.

reactant | Tert-butyl 2-(4-hydroxyphenyl)acetate | 0.960 mmol, 200 mg | OC1=CC=C(C=C1)CC(=O)OC(C)(C)C | C12H16O3
reactant | K2CO3 | 0.960 mmol, 133 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | N-(4-chlorophenethyl)-4-fluorobenzamide | 0.960 mmol, 267 mg | ClC1=CC=C(CCNC(C2=CC=C(C=C2)F)=O)C=C1 | C15H13ClFNO
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | tert-butyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)phenyl)acetate | 20 mg, 4.47% yield | ClC1=CC=C(CCNC(=O)C2=CC=C(OC3=CC=C(C=C3)CC(=O)OC(C)(C)C)C=C2)C=C1 | C27H28ClNO4
